US04618708
N-(2-benzyl propenoyl)-glycine benzyl ester
2.42 g (15 mmoles) of 2-benzyl acrylic acid are dissolved in 30 ml of THF and 10 ml of CHCl3. There is added a solution in 50 ml of THF of 1.87 g of glycine benzyl ester hydrochlorate, 2.2 g of triethylamine, then 2.20 g of HOBT and 3.4 g of DCC. The mixture is stirred for 20 hours at room temperature. The precipitate of DCU formed is collected. After evaporating to dryness and taking up with ethyl acetate the organic phase is washed in succession with 2×20 ml of citric acid, then 3×20 ml of NaHCO3. The material is concentrated under a vacuum and the rest of the DCU formed is suction filtered. A yellow oil which crystallizes slowly is obtained.

reactant | 2-benzyl acrylic acid | 15 mmoles, 2.42 g | C(C1=CC=CC=C1)C(C(=O)O)=C | C10H10O2
reactant | glycine benzyl ester | 1.87 g | C(C1=CC=CC=C1)OC(CN)=O | C9H11NO2
reactant | HOBT | 2.20 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 3.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
product | N-(2-benzyl propenoyl)-glycine benzyl ester | C(C1=CC=CC=C1)OC(CNC(C(=C)CC1=CC=CC=C1)=O)=O | C19H19NO3
